US07291744B2
Step e: Preparation of N-{[(1S,2R)-2-aminocyclohexyl]methyl}-(2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-amine
A mixture of benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)carbamate (280 mg, 0.68 mmol) and 10% palladium on charcoal (56 mg) in methanol (20 mL) was shaken under an atmosphere of hydrogen (55 psig) for 3.5 hours. The mixture was filtered, the solid was washed with methanol, and the filtrates were concentrated. The residual oil (120 mg, 64%) was used without further purification.

reactant | benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amino]methyl}cyclohexyl)carbamate | 0.68 mmol, 280 mg | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CNC1CC2=CC=C(C=C2CC1)F)=O | C25H31FN2O2
catalyst | palladium on charcoal | 56 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | N-{[(1S,2R)-2-aminocyclohexyl]methyl}-(2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-amine | N[C@H]1[C@@H](CCCC1)CNC1CC2=CC=C(C=C2CC1)F | C17H25FN2
